* source 2PARTE_TRABALHO
R_R2         N21014 N20850  22k TC=0,0 
V_V7         -15 0 -15Vdc
C_C3         N20832 OUT_TRI  100n  TC=0,0 
R_R4         N20850 N20832  22k TC=0,0 
X_U5         N21014 0 15 -15 N208944 TL081
R_R1         N208944 N20850  330 TC=0,0 
R_R3         N21014 OUT_TRI  10k TC=0,0 
X_U6         0 N20832 15 -15 OUT_TRI TL081
D_D14         0 N207821 BZX84C4V7/PLP 
D_D15         N20850 N207821 BZX84C4V7/PLP 
V_V10         15 0 15Vdc
X_U3         0 N21728 15 -15 OUT_TRI2 TL081
R_R5         OUT_TRI N21728  10k TC=0,0 
R_R6         N21786 N21728  10k TC=0,0 
R_R7         N21728 OUT_TRI2  10k TC=0,0 
V_V11         N21786 0 -2.45Vdc
X_U4         N22387 N222761 N23143 -15 N22356 TL081
R_R10         N22387 N22356  1000k TC=0,0 
R_R9         N224671 N22387  10k TC=0,0 
V_V12         N224671 0 2.5Vdc
R_R8         OUT_TRI2 N222761  10k TC=0,0 
R_R11         N225901 N225900  1k TC=0,0 
D_D10         N22356 N225901 Dbreak 
X_D1         N225900 0 LED PARAMS: I_REV_LEAK=10u CT_ZERO_VOLTS=50p V_BR=5
+  VJ_KNEE=2.5 VJ_SPEC=3.2 IF_SPEC=25m
V_V13         N23143 0 15Vdc
