* source 2PARTE_TRABALHO
V_V1         N14453 0 3.25Vdc
R_R1         N14453 N14460  200 TC=0,0 
D_D5         0 N14881 BZX84C10/ZTX 
X_U1         N14881 N15194 15 -15 N14966 TL081
Q_Q1         N15019 N14966 N15194 BC108A 
X_D6         15 N15019 LED PARAMS: I_REV_LEAK=10u CT_ZERO_VOLTS=50p V_BR=5
+  VJ_KNEE=2.5 VJ_SPEC=3.2 IF_SPEC=25m
X_D7         15 N15019 LED PARAMS: I_REV_LEAK=10u CT_ZERO_VOLTS=50p V_BR=5
+  VJ_KNEE=2.5 VJ_SPEC=3.2 IF_SPEC=25m
X_D8         15 N15019 LED PARAMS: I_REV_LEAK=10u CT_ZERO_VOLTS=50p V_BR=5
+  VJ_KNEE=2.5 VJ_SPEC=3.2 IF_SPEC=25m
V_V4         15 0 15Vdc
V_V5         -15 0 -15Vdc
R_R3         N18186 N14881  500 TC=0,0 
X_U2         N16471 N16351 15 -15 ACOND TL081
R_R4         0 N16351  10k TC=0,0 
R_R5         ACOND N16351  4.79k TC=0,0 
R_R6         N16471 15  27k TC=0,0 
R_R7         N16471 N16614  4.7k TC=0,0 
V_V6         N16614 0 0Vdc
R_R8         N18037 0  200 TC=0,0 
D_D9         N18037 N15194 BZX84C2V7/PLP 
D_D10         ACOND N18186 Dbreak 
X_D11         N14460 0 LED PARAMS: I_REV_LEAK=10u CT_ZERO_VOLTS=50p V_BR=5
+  VJ_KNEE=2.5 VJ_SPEC=3.2 IF_SPEC=25m
X_D13         N14460 0 LED PARAMS: I_REV_LEAK=10u CT_ZERO_VOLTS=50p V_BR=5
+  VJ_KNEE=2.5 VJ_SPEC=3.2 IF_SPEC=25m
X_D14         N14460 0 LED PARAMS: I_REV_LEAK=10u CT_ZERO_VOLTS=50p V_BR=5
+  VJ_KNEE=2.5 VJ_SPEC=3.2 IF_SPEC=25m
